US05753679
0.108 g (0.0004 mol) of 1-(2-bromo-benzyl)-piperidin-4-ol and 0.12 ml (0.00085 mol) of triethylamine were dissolved in 4 ml of toluene, treated with 0.058 ml (0.0005 mol) of benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:1). 0.106 g (71%) of 1-(2-bromo-benzyl)-piperidin-4-yl benzoate was obtained as a colorless oil.

reactant | 1-(2-bromo-benzyl)-piperidin-4-ol | 0.0004 mol, 0.108 g | BrC1=C(CN2CCC(CC2)O)C=CC=C1 | C12H16BrNO
reactant | triethylamine | 0.00085 mol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.0005 mol, 0.058 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-bromo-benzyl)-piperidin-4-yl benzoate | 0.106 g, 71% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=C(C=CC=C1)Br | C19H20BrNO2
